US07585886B2
A 309 mg portion of tert-butyl [(1R)-1-(1-naphthyl)ethyl]{[(3R,4S)-4-phenylpyrrolidin-3-yl]methyl}carbamate was dissolved in 7 ml of acetic anhydride and 14 ml of pyridine and stirred at room temperature for 13Hours. The reaction solution was concentrated under a reduced pressure, and the thus obtained residue was purified by a silica gel column chromatography (chloroform-ethyl acetate) to obtain 224 mg of tert-butyl {[(3R,4S)-1-acetyl-4-phenylpyrrolidin-3-yl]methyl}[(1R)-1-(1-naphthyl)ethyl]carbamate as a colorless amorphous substance. FP: 473.

reactant | tert-butyl [(1R)-1-(1-naphthyl)ethyl]{[(3R,4S)-4-phenylpyrrolidin-3-yl]methyl}carbamate | C1(=CC=CC2=CC=CC=C12)[C@@H](C)N(C(OC(C)(C)C)=O)C[C@H]1CNC[C@@H]1C1=CC=CC=C1 | C28H34N2O2
reactant | pyridine | 14 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 7 ml | C(C)(=O)OC(C)=O | C4H6O3
product | tert-butyl {[(3R,4S)-1-acetyl-4-phenylpyrrolidin-3-yl]methyl}[(1R)-1-(1-naphthyl)ethyl]carbamate | 224 mg | C(C)(=O)N1C[C@@H]([C@H](C1)C1=CC=CC=C1)CN(C(OC(C)(C)C)=O)[C@H](C)C1=CC=CC2=CC=CC=C12 | C30H36N2O3
